US08957093B2
4′-((5-((2,3-dihydrobenzo[b][1,4]dioxin-2-yl)methylcarbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)biphenyl-2-carboxylic acid
The title compound was prepared following the same general protocol as described in Steps 8-9, Example 1, using (2,3-dihydrobenzo[b][1,4]dioxin-2-yl)methanamine and 1-((2′-(tert-butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid. LC-MS 547 (M+H).

reactant | (2,3-dihydrobenzo[b][1,4]dioxin-2-yl)methanamine | O1C2=C(OCC1CN)C=CC=C2 | C9H11NO2
reactant | 1-((2′-(tert-butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C29H29NO4
product | 4′-((5-((2,3-dihydrobenzo[b][1,4]dioxin-2-yl)methylcarbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)biphenyl-2-carboxylic acid | O1C2=C(OCC1CNC(=O)C=1C=C3C(=C(N(C3=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C)C)C=CC=C2 | C34H30N2O5
